US09227976B2
Step 1: N-[3-(3-fluorophenyl)-1H-pyrazol-5-yl]acetamide
To a solution of 3-(3-fluorophenyl)-1H-pyrazol-5-amine (6.5 g, 36 mmol) and N-methylmorpholine (9.7 mL, 88 mmol) in CH2Cl2 (150 mL) was added acetyl chloride (6 mL, 85 mmol) dropwise at 0° C. under an atmosphere of nitrogen. The reaction mixture was stirred at room temperature for 1 d. The reaction mixture was concentrated in vacuo. MeOH (50 mL) and THF (50 mL) were added to the residue, followed by the addition of NaOH solution (aq. 2.5 M, 42.5 mL) at 0° C. The reaction mixture was stirred at room temperature for 15 min and HCl solution was added until pH reached ˜6. The organic solvents were evaporated in vacuo. The solid from the resulting aqueous suspension was collected by filtration, yielding the title compound as a solid (7.6 g).

reactant | 3-(3-fluorophenyl)-1H-pyrazol-5-amine | 36 mmol, 6.5 g | FC=1C=C(C=CC1)C1=NNC(=C1)N | C9H8FN3
reactant | N-methylmorpholine | 88 mmol, 9.7 mL | CN1CCOCC1 | C5H11NO
reactant | acetyl chloride | 85 mmol, 6 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(3-fluorophenyl)-1H-pyrazol-5-yl]acetamide | 7.6 g | FC=1C=C(C=CC1)C1=NNC(=C1)NC(C)=O | C11H10FN3O
